US05401772
3,5-Dichloro-4-[3'-(4-fluorobenzyl)4'-methoxyphenoxy]nitrobenzene (3.64 g) and 360 mg of 10% platinum on carbon in 200 ml ethanol is hydrogenated on a Parr shaker. Catalyst is removed by filtration through Celite and the filtrate stripped to afford 3,5-dichloro-4-[3'-(4-fluorobenzyl) 4'-methoxyphenoxy]-aniline. This is redissolved with 1.10 ml ethyl bromoacetate and 1.28 g of diisopropylethylamine in 30 ml dimethylformamide and heated at 140° for 18 hours. Solvent is removed with high vacuum and the residue dissolved in ethyl acetate and extracted twice with water. The ethyl acetate is dried, filtered and stripped to give crude product. Chromatography on silica gel with 80:20 to 70:30 hexane:ethyl acetate affords pure ethyl N-[3,5-dichloro-4-[3'-(4-fluorobenzyl)-4'-methoxyphenoxy]-phenyl]aminoacetate; NMR (CDCl3): δ1.3 (3H, t), 3.7 (3H, s), 3.9 (2H, s), 3.9 (2H, s), 4.3 (2H,q), 6.6 (1H, d of d), 6.7 (1H, d), 6.8 (1H, d), 6.9 (2H, m), 7.1 (2H, m), 7.3 (2H, s).

reactant | 3,5-Dichloro-4-[3'-(4-fluorobenzyl)4'-methoxyphenoxy]nitrobenzene | 3.64 g | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)OC)CC1=CC=C(C=C1)F)Cl)[N+](=O)[O-] | C20H14Cl2FNO4
catalyst | platinum on carbon | 360 mg | [Pt] | Pt
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3,5-dichloro-4-[3'-(4-fluorobenzyl) 4'-methoxyphenoxy]-aniline | ClC=1C=C(N)C=C(C1OC1=CC(=C(C=C1)OC)CC1=CC=C(C=C1)F)Cl | C20H16Cl2FNO2
